US07504426B2
(4-Amino-1H-benzoimidazol-2-yl)-(4-methyl-piperazin-1-yl)-methanone
To a solution of (4-methyl-piperazin-1-yl)-(4-nitro-1H-benzoimidazol-2-yl)-methanone (640 mg, 2.21 mmol) in 1:1 THF/ethanol (10 mL, with a few drops of ethyl acetate) was added 10% palladium on carbon (640 mg). The reaction mixture was placed under 1 atm hydrogen for 72 h. The resulting mixture was filtered through diatomaceous earth, and the filtrate was concentrated under reduced pressure. The crude product was purified on silica gel (40 g; 0-10% methanol/CH2Cl2) to afford 519 mg (91%) of the title compound. MS (ESI): mass calculated for C13H17N5O, 259.31; m/z found, 260.3 [M+H]+. 1H NMR (400 MHz, CDCl3): 12.21-11.36 (s, 1H), 7.12 (t, J=7.8 Hz, 1H), 6.94-6.83 (m, 1H), 6.53 (d, J=7.8 Hz, 1H), 4.82-4.78 (m, 2H), 4.43-4.40 (m, 2H), 3.94-3.92 (m, 2H), 2.56-2.54 (m, 4H), 2.35 (s, 3H).

reactant | (4-methyl-piperazin-1-yl)-(4-nitro-1H-benzoimidazol-2-yl)-methanone | 2.21 mmol, 640 mg | CN1CCN(CC1)C(=O)C1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C13H15N5O3
reactant | hydrogen | [H][H] | H2
catalyst | THF ethanol | 10 mL | C1CCOC1.C(C)O
catalyst | palladium on carbon | 640 mg | [Pd] | Pd
product | (4-Amino-1H-benzoimidazol-2-yl)-(4-methyl-piperazin-1-yl)-methanone | 519 mg, 91% | NC1=CC=CC=2NC(=NC21)C(=O)N2CCN(CC2)C | C13H17N5O
